US08008506B2
N-benzyl-2-(benzyloxy)ethanamine
2-(Benzyloxy)ethanamine (12.3146 g; manufactured by Bionet Co., Ltd.) was dissolved in CH2Cl2 (150 mL), and benzaldehyde (8.7219 g; manufactured by Kanto Chemical Co., Inc.) and anhydrous sodium sulfate (67.7879 g; manufactured by Wako Pure Chemical Industries, Ltd.) were added to the solution. The mixture was stirred overnight at room temperature. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in methanol (150 mL), and sodium borohydride (3.4129 g; manufactured by Kanto Chemical Co., Inc.) was added thereto. The mixture as stirred for 2 hours at room temperature. The reaction solution was concentrated under reduced pressure, water added thereto, and then the mixture was extracted two times with ethyl acetate. The organic layer was washed twice with water and once with brine, and was dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and thus the title compound (20.188 g) was obtained.

reactant | 2-(Benzyloxy)ethanamine | 12.3146 g | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | benzaldehyde | 8.7219 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium sulfate | 67.7879 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-(benzyloxy)ethanamine | 20.188 g | C(C1=CC=CC=C1)NCCOCC1=CC=CC=C1 | C16H19NO
